US09387202B2
A mixture of ethyl 2-cyanoacetate (120 g, 1.06 mol) and triethylorthoacetate (354 g, 2.12 mol) in glacial acetic acid (33 g, 0.53 mol) was heated at 120-130° C. overnight. The mixture was concentrated under vacuum to provide crude ethyl 2-cyano-3-ethoxybut-2-enoate. The residue was carried into the next reaction without further purification assuming 100% conversion.

reactant | ethyl 2-cyanoacetate | 1.06 mol, 120 g | C(#N)CC(=O)OCC | C5H7NO2
reactant | triethylorthoacetate | 2.12 mol, 354 g | C(C)C(C([O-])([O-])[O-])(CC)CC
reactant | acetic acid | 0.53 mol, 33 g | C(C)(=O)O | C2H4O2
product | ethyl 2-cyano-3-ethoxybut-2-enoate | C(#N)C(C(=O)OCC)=C(C)OCC | C9H13NO3
